US09145414B2
A 4 N hydrochloric acid-dioxane solution (20 mL) was added to tert-butyl(4-(pyrimidin-2-yl)thiophen-2-yl)carbamate obtained in the above-described Step 3, and the reaction solution was stirred at room temperature for 2 hours. The solvent was evaporated under vacuum, and then isopropyl ether was added. The deposited precipitate was filtrated to obtain 4-(pyrimidin-2-yl)thiophen-2-amine hydrochloride.

reactant | tert-butyl(4-(pyrimidin-2-yl)thiophen-2-yl)carbamate | C(C)(C)(C)OC(NC=1SC=C(C1)C1=NC=CC=N1)=O | C13H15N3O2S
reactant | hydrochloric acid dioxane | 4 N, 20 mL | Cl.O1CCOCC1
product | 4-(pyrimidin-2-yl)thiophen-2-amine hydrochloride | Cl.N1=C(N=CC=C1)C=1C=C(SC1)N | InChI=1S/C8H7N3S.ClH/c9-7-4-6(5-12-7)8-10-2-1-3-11-8;/h1-5H,9H2;1H
